US07687510B2
Ethyl 4-(4-cyanophenyl)-1-(3,5-dichlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
Under argon, 30.8 mg (0.15 mmol) N-(3,5-dichlorophenyl)urea are stirred together with 39.3 mg (0.3 mmol) 4-formylbenzonitrile, 39 mg (0.3 mmol) ethyl 3-oxo-butanoate and 90 mg trimethylsilylpolyphosphate in 0.5 ml dioxan at 80° C. for 4 hours. After adding a small amount of DMSO, the reaction mixture is filtered and purified by preparative HPLC (column: Agilent Zorbax Extend C18 20 mm×50 mm, 5 μm; solvent A: acetonitrile, solvent B: water+0.1% conc. aq. ammonia; gradient: 0 min 10% A, 2 min 10% A, 6 min 90% A, 7 min 90% A, 7.1 min 10% A, 8 min 10% A; flow rate 25 ml/min; wavelength: 220 nm; injection volume: approx. 500 μl; number of injections: 1). The product containing fractions are combined and concentrated in vacuo.

reactant | N-(3,5-dichlorophenyl)urea | 0.15 mmol, 30.8 mg | ClC=1C=C(C=C(C1)Cl)NC(=O)N | C7H6Cl2N2O
reactant | 4-formylbenzonitrile | 0.3 mmol, 39.3 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | ethyl 3-oxo-butanoate | 0.3 mmol, 39 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | DMSO | CS(=O)C | C2H6OS
solvent | dioxan | 0.5 ml | O1CCOCC1 | C4H8O2
product | Ethyl 4-(4-cyanophenyl)-1-(3,5-dichlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC(=CC(=C1)Cl)Cl)=O | C21H17Cl2N3O3
